US08541448B2
Intermediate 40.2: 3-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)propanoic acid
Into a 50-mL round-bottom flask, was placed a solution of ethyl 3-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)propanoate (150 mg, 0.33 mmol, 1.00 equiv) in methanol (10 mL), water (2 mL) and sodium hydroxide (80 mg, 2.00 mmol). The resulting solution was stirred for 2 h at 25° C. and the resulting mixture was concentrated under vacuum. The pH value of the solution was adjusted to 7-8 with hydrogen chloride. The resulting solution was extracted with chloroform (3×10 ml) and the organic layers combined and dried over sodium sulfate. This resulted in 31.5 mg (22%) of 3-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)propanoic acid as a white solid. 1H-NMR (300 MHz, DMSO, ppm): δ 8.56 (1H, s), 7.45 (1H, s), 7.29-7.32 (2H, d, J=8.1 Hz), 7.04-7.07 (2H, d, J=8.4 Hz), 6.79 (1H, s), 6.21 (1H, s), 4.16 (1H, m), 3.56-3.58 (2H, d, J=5.4 Hz), 3.27-3.29 (2H, d, J=6 Hz), 2.82-2.87 (1H, m), 2.59 (2H, s), 2.38-2.40 (4H, m). MS (ES, m/z): 422 [M+H]+.

reactant | ethyl 3-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)propanoate | 0.33 mmol, 150 mg, 1.00 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(NCCC(=O)OCC)=O | C22H25Cl2N3O3
reactant | sodium hydroxide | 2.00 mmol, 80 mg | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)propanoic acid | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(NCCC(=O)O)=O | C20H21Cl2N3O3
